US04889941
Preparation of 7-[3-[4-(Carbomethoxymethoxy)phenethylamino]-2-hydroxypropoxy]flavone Maleate
7-[3-[(4-Hydroxyphenethyl)amino]-2-hydroxypropoxy]flavone (10.8 g, 25.1 mmol), Example 13, was dissolved in 20 ml of warm DMF at 50°-60° C. and then cooled to -20° C. Sodium hydride (1.2 g, 0.0251 mmol) was added portionwise to the above cooled solution, stirred at -20° C. for 1 hour, and then cooled to -40° C. Methyl bromoacetate (3.8 g, 25.1 mmol) was added dropwise to the stirred solution and the reaction mixture was kept at this temperature for 2 hours and at RT overnight. The reaction was poured into 1.5 l of water, the water decanted, and the residue washed with two portions of water. The gummy material was then purified by flash column chromatography, eluting with CHCl3 --MeOH (20:1). The isolated material (2.7 g) was recrystallized from methanol, and the crystallized solid was treated with 30 ml of ethanol and maleic acid (0.3 g) to give the title compound as white crystals, mp 154°-156° C., 1.5 g (10% yield).

reactant | 7-[3-[(4-Hydroxyphenethyl)amino]-2-hydroxypropoxy]flavone | 25.1 mmol, 10.8 g | OC1=CC=C(CCNCC(COC2=CC=C3C(C=C(OC3=C2)C2=CC=CC=C2)=O)O)C=C1 | C26H25NO5
reactant | Sodium hydride | 0.0251 mmol, 1.2 g | [H-].[Na+]
reactant | Methyl bromoacetate | 25.1 mmol, 3.8 g | BrCC(=O)OC | C3H5BrO2
reactant | water | 1.5 l | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 7-[3-[4-(Carbomethoxymethoxy)phenethylamino]-2-hydroxypropoxy]flavone Maleate | 10% yield | C(\C=C/C(=O)O)(=O)O.C(=O)(OC)COC1=CC=C(CCNCC(COC2=CC=C3C(C=C(OC3=C2)C2=CC=CC=C2)=O)O)C=C1 | InChI=1S/C29H29NO7.C4H4O4/c1-34-29(33)19-36-23-9-7-20(8-10-23)13-14-30-17-22(31)18-35-24-11-12-25-26(32)16-27(37-28(25)15-24)21-5-3-2-4-6-21;5-3(6)1-2-4(7)8/h2-12,15-16,22,30-31H,13-14,17-19H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
